US07446118B2
7-Fluoro-5-(3-hydroxy-1-phenyl-propyl)-1H-indole-3-carbonitrile LXXXVIII (328 mg) was prepared from 3-(3-cyano-7-fluoro-1H-indol-5-yl)-3-phenyl-propionic acid ethyl ester using the procedure described above for preparation of -(3-Hydroxy-1-pheny-propyl)-1H-indole-3-carbonitrile LX (Example 14).

reactant | 3-(3-cyano-7-fluoro-1H-indol-5-yl)-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)F)C#N)=O | C20H17FN2O2
reactant | (3-Hydroxy-1-pheny-propyl)-1H-indole-3-carbonitrile | OCCC(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C#N | C18H16N2O
product | 7-Fluoro-5-(3-hydroxy-1-phenyl-propyl)-1H-indole-3-carbonitrile | FC=1C=C(C=C2C(=CNC12)C#N)C(CCO)C1=CC=CC=C1 | C18H15FN2O
